US07696213B2
8-Cyclopentyl-6-(1-(2-(methoxymethoxy)ethyl)-1H-pyrazol-4-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 6-bromo-8-cyclopentyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (200 mg, 0.56 mmol), 1-(2-(methoxymethoxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (239 mg, 1.5 equiv), palladium (0) tetrakis(triphenylphosphine) (6.13 mg, 0.05 equiv.), DMF (2 mL) in a 5 mL microwave vial was added potassium carbonate (3 M, 3.0 equiv). The solution was degassed with N2 for 10 min before being capped and heated in the microwave reactor for 30 min. at 100° C. The reaction was poured into 20 ml brine and the precipitate was collected by filtration. The title compound was obtained as a solid (208 mg, 86% yield). It was used for next step without further purification.

reactant | 6-bromo-8-cyclopentyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.56 mmol, 200 mg | BrC1=CC2=C(N=C(N=C2C)SC)N(C1=O)C1CCCC1 | C14H16BrN3OS
reactant | 1-(2-(methoxymethoxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 239 mg, 1.5 equiv | COCOCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O4
reactant | potassium carbonate | 3 M, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium (0) tetrakis(triphenylphosphine) | 6.13 mg, 0.05 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-Cyclopentyl-6-(1-(2-(methoxymethoxy)ethyl)-1H-pyrazol-4-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)SC)C=2C=NN(C2)CCOCOC)=O | C21H27N5O3S
